US07531545B2
Step C: 3-[Benzyl-(1-phenyl-ethyl)-amino]-3-cyclohexyl-propionic acid
To a solution of 3-[benzyl-(1-phenyl-ethyl)-amino]-3-cyclohexyl-propionic acid tert-butyl ester (13.7 g, 32.5 mmol) in dichloromethane (65 mL) at 0° C., trifluoroacetic acid (65 mL) was slowly added (over 30 min). The reaction mixture was then stirred for 2 hours at room temperature. The solvent was evaporated and the residue azeotroped (3×50 ml, toluene) to yield a residue.

reactant | 3-[benzyl-(1-phenyl-ethyl)-amino]-3-cyclohexyl-propionic acid tert-butyl ester | 32.5 mmol, 13.7 g | C(C)(C)(C)OC(CC(C1CCCCC1)N(C(C)C1=CC=CC=C1)CC1=CC=CC=C1)=O | C28H39NO2
reactant | trifluoroacetic acid | 65 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 65 mL | ClCCl | CH2Cl2
product | 3-[Benzyl-(1-phenyl-ethyl)-amino]-3-cyclohexyl-propionic acid | C(C1=CC=CC=C1)N(C(CC(=O)O)C1CCCCC1)C(C)C1=CC=CC=C1 | C24H31NO2
